US07161005B2
4′-Ethoxy-[2,2′;6′,2″]terpyridine (Referred to as L3 Below)
In a nitrogen atmosphere, 900 mg (3.4 mmol) of 4′-chloro-[2,2′;6′,2″]terpyridine are added to 15 ml of a 0.7M ethanolic sodium ethanolate solution. The mixture is heated at reflux for 20 hours. The mixture is allowed to cool and 20 ml of water are added, and 4′-ethoxy-[2,2′;6′,2″]terpyridine is filtered off in the form of a white solid. 1H-NMR (360 MHz, DMSO-d6): 1.40 (t, 3 H, 6.8 Hz); 4.28 (q, 2 H. 6.8 Hz); 7.42–7.53 (m, 2H); 7.93 (s, 2H); 7.95–8.02 (m, 2H); 8.58 (d, 2H, J=8.1 Hz); 8.69 (d, 2H, J=4 Hz).

reactant | 4′-chloro-[2,2′;6′,2″]terpyridine | 3.4 mmol, 900 mg | ClC1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C15H10ClN3
reactant | sodium ethanolate | 0.7M | C(C)[O-].[Na+]
solvent | water | 20 ml | O | H2O
product | 4′-Ethoxy-[2,2′;6′,2″]terpyridine | C(C)OC1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C17H15N3O
